US04843087
A mixture of 32.0 g of 2-(4-methoxyphenyl)4,5-dimethyloxazole and 250 ml of 48% hydrogen bromide solution was stirred and heated at reflux for 2.5 hours. The reaction mixture was concentrated in vacuo, the residue dissolved in 2N sodium hydroxide and the solution acidified with acetic acid. The solid product was collected and recrystallized from methanol to give 24.3 g of 4-(4,5-dimethyl-2-oxazolyl)phenol, m.p. 202°14 203° C.

reactant | 2-(4-methoxyphenyl)4,5-dimethyloxazole | 32.0 g | COC1=CC=C(C=C1)C=1OC(=C(N1)C)C | C12H13NO2
solvent | hydrogen bromide | 250 ml | Br | BrH
product | 4-(4,5-dimethyl-2-oxazolyl)phenol | 24.3 g | CC=1N=C(OC1C)C1=CC=C(C=C1)O | C11H11NO2
